*source TLV1872
* PSpice Model Editor - Version 17.4.0
*$
* TLV1872
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: TLV1872
* Date: 08/14/2023
* Model Type: All In One
* Simulator: PSPICE 
* Simulator Version: 17.4.0.p001
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SNOSDG5
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web        
*
*****************************************************************************
* Model Notes:
* Modeled parameters:
* Supply Voltage Ranges
     *(VCCI) - (VEEI): 2.7V to 36V
     *(VCCO) - (VEEO): 2.7V to 36V
* Input Voltage Range from ((VEEI) - 0.2V to (VCCI) + 0.2V))
* Total Supply Current (typical 65uA)
* Input Bias Currents (typical 500 pA)
* Offset Voltage (typical)
* Propagation Delay (typical 65ns)
* Power On Reset
* Error Conditions:
* If either input goes beyond the recommended input voltage range, the output will float to mid supply 
* If either supplies goes beyond the recommended supply voltage ranges, the output will float to mid supply
* If (VEEO) is more than 18V above (VEEI), then the output will float to mid supply.
* The real device will NOT do this.
*
* OFFSET VOLTAGE: Typical 0.5 mV. Offset voltage can be adjusted in the macro with device V_VOS
*****************************************************************************
* source TLV1872
.SUBCKT TLV1872 IN+ IN- VCCI VEEI VCCO VEEO OUT
X_U4 N21103 N862087 Prop_Delay  
X_U2 IN-BUFF IN+BUFF N21168 VCCI_BUFFER VEEI_BUFFER INPUTRANGE  
X_U5 EN N21168 N786723 VCCO VCCO_BUFFER VEEO VEEO_BUFFER N862127 OUT Output_Stage  
X_U6 VCCI VCCI_BUFFER VEEI VEEI_BUFFER Supply_Buffer  
X_U3         N785573 IN-BUFF N21103 VCCI_BUFFER VEEI_BUFFER N852568 HPA_COMPHYS
I_IS         N843683 VEEI DC 30u  
X_U7 ENI N786723 VCCI_BUFFER VEEI_BUFFER Supply_Enable  
X_U1 IN+ IN+BUFF IN- IN-BUFF Input_Buffer  
I_IBP         IN+ VEEI DC 500p  
I_IBN         IN- VEEI DC 500p  
V_VOS         N785573 IN+BUFF 0.5m
R_RIS         N843683 VCCI  1u TC=0,0 
V_VHYST         N852568 0 0
E_E1         N862127 VEEI_BUFFER N862087 VEEI_BUFFER 2
C_CINPH         IN+ VCCI  0.5p  TC=0,0 
C_CINNH         IN- VCCI  0.5p  TC=0,0 
X_DESD3          VEEI IN+ DESD PARAMS: AREA=1.0
C_CINNL         VEEI IN-  0.5p  TC=0,0 
C_CINPL         VEEI IN+  0.5p  TC=0,0 
X_DESD5          VEEI IN- DESD PARAMS: AREA=1.0
X_DESD7          IN+ VCCI DESD PARAMS: AREA=1.0
X_DESD8          IN- VCCI DESD PARAMS: AREA=1.0
X_U8 VCCO VCCO_BUFFER VEEO VEEO_BUFFER Supply_Buffer  
R_RIS1         N870684 VCCO  1u TC=0,0 
I_IS1         N870684 VEEO DC 35u  
V_VLOGIC         1V 0 1
V_VS_MIN_SET1         N876625 0 2.69
X_U18         N876391 N876301 N876405 1V 0 VCC_Range
X_U13         VCCO_BUFFER VEEO_BUFFER N876391 1V 0 Difference
X_U16         N876625 N876391 N876523 1V 0 VCC_Range
X_U19         N876405 N876523 ENO 1V 0 ORGATE 
V_VS_MAX_SET         N876301 0 18.1
X_U20         VEEO_BUFFER N878927 ENG 1V 0 VCC_Range
V_18V         N878927 VEEI_BUFFER 18
X_U21          ENI ENO ENG ENG EN 1V 0 4ORGATE
.ENDS
 
.SUBCKT Input_Buffer IN+ IN+_BUFF IN- IN-_BUFF  
X_U1         IN+ IN- IN+_BUFF IN-_BUFF SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT Supply_Enable EN POR VCCI_BUFFER VEEI_BUFFER  
X_U15         N786085 N785687 POR 1V 0 VCC_Range
X_U17         N785701 N785811 EN 1V 0 ORGATE 
V_VLOGIC         1V 0 1
X_U5         N785687 N785597 N785701 1V 0 VCC_Range
V_VS_MIN_SET1         N785913 0 2.69
V_VS_MIN_SET         N786085 0 2.69
V_VS_MAX_SET         N785597 0 36.1
X_U16         N785913 N785687 N785811 1V 0 VCC_Range
X_U13         VCCI_BUFFER VEEI_BUFFER N785687 1V 0 Difference
.ENDS
 
.SUBCKT Supply_Buffer VCCI VCCI_BUFFER VEEI VEEI_BUFFER  
X_U1         VCCI VEEI VCCI_BUFFER VEEI_BUFFER SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT Output_Stage EN IN_RANGE POR VCCI VCCI_BUFFER VEEI VEEI_BUFFER VIN VOUT  
X_SMID    CONTROL_MID 0 N778484 MID Output_Stage_SMID 
X_U3         VIN N774212 VCCI_BUFFER VEEI_BUFFER VCCI N774290 DIGLEVSHIFT
X_U7         MID VCCI_BUFFER VEEI_BUFFER MID_SUPPLY
V_VLOGIC         1V 0 1
V_V1         VCCI N774290 1
X_SHIZ    CONTROL_HIZ 0 N778484 N778496 Output_Stage_SHIZ 
X_U8          POR IN_RANGE EN EN CONTROL_HIZ 1V 0 4ORGATE
X_U9         CONTROL_HIZ N789513 1V 0 INVERTER
X_U10         N789513 POR CONTROL_MID 1V 0 ORGATE 
L_L1         N778484 VOUT  1n  
C_COUTH         VOUT VCCI  0.5p  TC=0,0 
C_COUTL         VEEI VOUT  0.5p  TC=0,0 
X_SVOL    N774212 N774290 VEEI N850209 Output_Stage_SVOL 
R_ROUTL         N850209 N778496  60 TC=0,0 
R_ROUTH         N778496 N8552942  60 TC=0,0 
X_SVOH    N774212 N774290 N8552942 VCCI Output_Stage_SVOH 
.ENDS
 
.SUBCKT INPUTRANGE INN INP INRANGE VCCI_BUFFER VEEI_BUFFER  
V_VCMNP         N20415 VEEI_BUFFER -210m
V_VCMPN         N202710 VCCI_BUFFER 0.21
X_U1         N20155 INP N20826 VCCI_BUFFER VEEI_BUFFER VINRANGE_393
V_VCMPP         N20155 VCCI_BUFFER 0.21
V_VCMNN         N20539 VEEI_BUFFER -210m
X_U21         N202710 INN N20833 VCCI_BUFFER VEEI_BUFFER VINRANGE_393
X_U22         INP N20415 N20840 VCCI_BUFFER VEEI_BUFFER VINRANGE_393
X_U23         INN N20539 N20531 VCCI_BUFFER VEEI_BUFFER VINRANGE_393
X_U24         N20826 N20833 N20840 N20531 INRANGE VCCI_BUFFER VEEI_BUFFER 4ORGATE 
.ENDS
 
.SUBCKT Prop_Delay VIN VOUT  
T_TPD         N03175 0 VOUT 0 Z0=50 TD=65n  
R_RT         0 VOUT  50 TC=0,0 
R_RS         N03175 VIN  50 TC=0,0 
.ENDS

.subckt Output_Stage_SMID 1 2 3 4  
S_SMID         3 4 1 2 _SMID
RS_SMID         1 2 1G
.MODEL         _SMID VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SMID

.subckt Output_Stage_SHIZ 1 2 3 4  
S_SHIZ         3 4 1 2 _SHIZ
RS_SHIZ         1 2 1G
.MODEL         _SHIZ VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SHIZ

.subckt Output_Stage_SVOL 1 2 3 4  
S_SVOL         3 4 1 2 _SVOL
RS_SVOL         1 2 1G
.MODEL         _SVOL VSWITCH Roff=1e12 Ron=1.0 Voff=1 Von=0
.ends Output_Stage_SVOL

.subckt Output_Stage_SVOH 1 2 3 4  
S_SVOH         3 4 1 2 _SVOH
RS_SVOH         1 2 1G
.MODEL         _SVOH VSWITCH Roff=1e12 Ron=1.0 Voff=0 Von=1
.ends Output_Stage_SVOH

.SUBCKT HPA_COMPHYS INP INN OUT_OUT VDD VSS VHYS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EVH VH 0 VALUE = { ( V(VHYS)/2) }
EINNNEW INNNEW 0 VALUE = { IF( ( V(OUT_OUT) < V(VMID) ),(V(INN) + (V(VH))),( V(INN) - V(VH) ) ) }
EOUT OUT 0 VALUE = { IF( ( V(INP) > V(INNNEW) ), V(VDD), V(VSS) ) }
R1 OUT OUT_OUT 1
C1 OUT_OUT 0 1e-12
.ENDS
*$
.SUBCKT DIGLEVSHIFT 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
*E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
E1 3 0 VALUE = { IF( V(1) < 1, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
*C1 2 0 1e-12
.ENDS
*$
.SUBCKT INVERTER 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 1 0 1e-12
.ENDS
*$
.SUBCKT MID_SUPPLY OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = {V(VMID)}
.ENDS
*$
.SUBCKT ORGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS
*$
.SUBCKT Difference 1 2 OUT VDD VSS 
EOUT OUT1 0 VALUE = { V(1)- V(2)}
R1 OUT1 OUT 1
*C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT SUPPLY_BUFFER1 1 2 VDD_NEW VSS_NEW 
EVDD_NEW VDD_NEW 0 VALUE = {V(1)}
EVSS_NEW VSS_NEW 0 VALUE = {V(2)}
.ENDS
*$
.SUBCKT VCC_Range 1 2 OUT VDD VSS 
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VDD), V(VSS) ) }
R1 OUT OUT2 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT VINRANGE_393 1 2 OUT VDD VSS 
EOUT OUT2 0 VALUE = { IF( ( V(1) >= V(2) ), V(VSS), V(VDD) ) }
R1 OUT2 OUT 1
C1 OUT 0 1e-12
.ENDS
*$
.SUBCKT 4ORGATE 1 2 3 4 5 VDD VSS
E1 6 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) | (V(2)> (V(VDD)+V(VSS))/2 ) | (V(3)> (V(VDD)+V(VSS))/2 ) | (V(4)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 5 6 1
.ENDS
*$
.subckt DESD AN CAT 
+ params:
+ AREA=1.0
+ IS=10f
+ RS=5
+ BV=100
D_DESD AN CAT model22 {area} 
.model model22 d
+ is={IS}
+ rs={RS}
+ bv={BV}
.ends DESD
