* \\ARX-704\Line-2-ARX\Блок базы - Подложки\Dradt15_Test\Draft15.asc
* Generated by LTspice 24.1.9 for Windows.
X§DA1 N009 N001 N003 N010 N011 N015 N016 PA340
R3 N001 N013 4.99k
C1 N015 N016 10p
R8 N002 0 4
R10 N009 N006 4.6k
V5 N013 0 PULSE(0 -0.5 10u 0.1u 0.1u 7u 0.01)
R6 N017 N012 120
X§VT1 N003 N004 N005 tip142
X§VT2 N010 N017 N014 tip147
R5 N006 N008 1.2k
C2 N006 0 1µ
V6 N008 0 0
R7 N002 N001 40.2k
R9 N004 N007 120
C3 N002 N001 13p
V3 0 N010 55
V1 N003 0 55
R1 N012 N011 500
R2 N002 N005 0.1
R4 N014 N002 0.1
R11 N003 N007 10k
R12 N012 N010 10k
X§U1 N012 N007 DI_1N4729A
Q1 N004 P001 N002 0 2N5550
Q2 N017 P002 N002 0 2N5401
R13 N005 P001 300
R14 N014 P002 300
.model NPN NPN
.model PNP PNP
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 60u 0 10n
.options itl4=50
.lib MJE340.SP3
.lib 1N4729A.cir
.lib PA340_Pspice.LIB
.lib TIP142.cir
.lib TIP147.cir
.backanno
.end
