* \\ARX-704\Line-2-ARX\Блок базы - Подложки\Model  I-Buf -AD8274+AMPL-A\Draft17.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N009 N001 N003 N010 N011 N013 N014 PA340
R1 N009 0 75k
R2 N004 N011 24
R3 N001 N012 4k
C1 N013 N014 30p
V1 0 N010 50
V2 N003 0 50
Ros N002 N001 40k
Cos N002 N001 20p
R10 N009 N008 20k
V5 N012 0 PULSE(0 -1 1u 0.1u 0.1u 10u 0.01)
R6 N016 N015 24
V4 N008 0 0.003
X§U4 N003 N004 N005 tip142
X§U5 N010 N016 N017 tip147
R5 N006 N005 0.2
R7 N006 N017 0.2
R9 N003 N011 10k
R11 N015 N010 10k
X§U2 N015 N011 DI_1N4729A
Rsh N007 N006 1000000
R§1k N002 0 10k
X§U3 N006 N007 N002 BUFH
X§U6 N007 0 DI_1N4729A
.tran 0 60u 0 10n
.options itl4=50
.lib BufH.cir
.lib DI_1N4729A.cir
.lib PA340_Pspice.LIB
.lib TIP142.cir
.lib TIP147.cir
.backanno
.end
