* AD8274 Rev. A 07/2012

* This model will give typical performance characteristics
* for the following parameters:
*
*     Closed loop gain and phase vs bandwidth
*     Output current and voltage limiting
*     Offset voltage (is  non-static, will  vary with gain)
*     Slew Rate
*     Current on output will be reflected to the supplies
*     Vnoise
*     PSRR and CMRR
*
* Correct operation of this macromodel has been verified on
* Multisim Power Pro Edition, Application version: 12.0.0, Database version: 12.0.a
*
* Copyright 2012 by Analog Devices Inc.
*
******************************************************
*                 noninverting input
*                 |    inverting input
*                 |    |
*                 |    |    positive supply
*                 |    |    |
*                 |    |    |    negative supply
*                 |    |    |    |    output
*                 |    |    |    |    |
*		      |    |    |    |    |    ref
*                 |    |    |    |    |    |     sense
*                 |    |    |    |    |    |     |
.SUBCKT AD8274	 Pin  Nin  Vcc	Vee	 Out  Ref  Sense

*** Internal Resistors
R63	Pin	1	Rideal	12e3
R62	Nin	2	Rideal	12e3
R61	Ref	1	Rideal	6e3
R65	Sense	2	Rideal	6e3

***Differential Stage
Q1	13	12	14	npn
Q2	17	2	16	npn

Rc1	98	13	Rideal	4.200E+00
Rc2	98	17	Rideal	4.200E+00
Re1	14	15	Rideal	4.148E+00
Re2	15	16	Rideal	4.148E+00

Ibias	15	51	1.00E+00
Dcmlim1	18	15	DQUIET
Vcmlim1	18	51	1.526

***Voltage Noise Generation
HVnoise	9	7	Vvnoise	1
VVnoise	501	0	0
DVnoise	501	0	Dvnoise
*RVnoise	501	0	5.53309E-05
RVnoise	501	0	9.6E-05

***Current Noise Generation on +IN
FInoise1	12	0	VInoise1	1
VInoise1	502	0	0
DInoise1	502	0	DInoise1
*RInoise1	502	0	287500
RInoise1	502	0	287500

***Current Noise Generation on -IN
FInoise2	2	0	VInoise2	1
VInoise2	503	0	0
DInoise2	503	0	DInoise2
*RInoise2	503	0	287500
RInoise2	503	0	287500

***Common Mode Injection
Rcm1	1	601	Rideal	100e6
Rcm2	2	601	Rideal	100e6
Gcmr	0	602	601	75	1.00E-06
Rcmr1	602	603	Rideal	1Meg
Rcmr2	603	604	Rideal	1.995E+01
Lcmr	604	0	1.588E-04
Ecmr	10	9	603	0	1.000E+00

***Positive Power Supply Rejection
Epsr1	700	0	98	0	1
Rpsr1	700	701	Rideal	1.00E+02
Rpsr2	701	702	Rideal	5.623E-05
Lpsr1	702	0	2.983E-08
Epsr2	11	10	701	0	1

***Negative Power Supply Rejection
Epsr3	703	0	51	0	1
Rpsr3	703	704	Rideal	1.00E+02
Rpsr4	704	705	Rideal	1.000E-04
Lpsr2	705	0	1.592E-06
Epsr4	12	11	704	0	1

***Input Offset and Bias
Vos	1	7	3.000E-04
Ios	1	2	1.000E-12

***Input Impedance
Cinv	2	0	6.00E-13
Cninv	1	0	6.00E-13

***1st Gain and Slew limiting
Gslew	0	101	17	13	1.0000E+00
Rslew	101	0	Rideal	2.50E+02
Dslew1	101	102	DZENER
Dslew2	0	102	DZENER

***Second Gain and Dominant Pole with Output Voltage Limiting
Gp1	51	201	101	0	9.433E-07
Rp1	201	51	Rideal	3.368E+13
Cp1	201	51	2.00E-12
Vlim1	97	206	2.15
Dlim1	201	206	dquiet
Vlim2	207	52	2.15
Dlim2	207	201	dquiet
Esupref1	97	98	51	0	1
Esupref2	52	51	51	0	1

***Second Pole
Gp2	0	202	201	51	1.00E-03
Rp2	202	0	Rideal	1.00E+03
Cp2	202	0	7.95775E-12

***Third Pole
Gp3	0	203	202	0	1.00E-03
Rp3	203	0	Rideal	1.00E+03
Cp3	203	0	5.30517E-12
***Fourth Pole
Gp4	0	204	203	0	1.00E-03
Rp4	204	0	Rideal	1.00E+03
Cp4	204	0	1.59155E-16
***Fifth Pole
Gp5	0	205	204	0	1.00E-03
Rp5	205	0	Rideal	1.00E+03
Cp5	205	0	1.592E-16

***First Zero
Gz1	0	301	205	0	1.00E-03
Rz1	301	302	Rideal	1.00E+03
*Lz1	302	0	6.366E-06
Lz1	302	0	14.466E-07
***Second Zero
Gz2	0	303	301	0	1.00E-03
Rz2	303	304	Rideal	1.00E+03
Lz2	304	0	1.592E-10
***Third Zero
Gz3	0	305	303	0	1.00E-03
Rz3	305	306	Rideal	1.00E+03
Lz3	306	0	1.59E-10

***Buffer
Gbuf	0	401	305	0	1.00E-04
Rbuf	401	0	Rideal	1.00E+04

***Output with current limiting
Eout	404	0	401	0	1.000E+00
Rout	404	405	RIDEAL	1.000E+00
Lout	405	406	1.00E-19
Cout	406	0	5.70E-11
Voutmon	406	Out	0
Dout1	401	407	Dquiet
Vout1	407	406	-5.300E-01
Dout2	408	401	Dquiet
Vout2	406	408	-5.300E-01

***Voltage reference generator
Eref1	98	0	Vcc	0	1
Eref2	51	0	Vee	0	1
Rref1	98	901	Rideal	100Meg
Rref2	901	51	Rideal	100Meg
Eref3	75	0	901	0	1

***Supply current correction
Iq	Vcc	Vee	0.0023
Fsup1	Vcc	0	Voutmon	1
*DZsup1	0	802	DZENER2
*Dsup1	Vcc	802	DQUIET
Fsup2	0	Vee	Voutmon	-1
*DZsup2	804	0	DZENER2
*Dsup2	804	Vee	DQUIET




***models
.model	Rideal	res	T_ABS=27
.model	Rnoise	res	T_ABS=27
.model	npn	npn	BF= 53333332.333
.model	dquiet	d
.model	dvnoise	d	KF=25e-3
.model	dinoise1	d	KF=0.000576e-6
.model	dinoise2	d	KF=0.000576e-6
.model	dzener	d	BV=44.38
.model	dzener2	d	BV=50

.ends

















